US07521457B2
b) (R)-2-pyrrolidin-1-yl-propylamine
Under a nitrogen atmosphere 31.65 ml 1 M Lithiumaluminiumhydrid solution (THF) are taken and combined with 1 g (7.032 mmol) (R)-2-pyrrolidin-1-yl-propionamide, dissolved in 2 ml THF, at 0° C. The reaction mixture is stirred for 48 h at 50° C. The reaction mixture is combined with 100 ml of methanol and then with the same amount of dichloromethane while cooling with ice. Approx. 25 g silica gel are added to this mixture and the solvent is eliminated in vacuo. This silica gel applied to a suction filter which has previously been charged with approx. 75 g silica gel. The suction filter is washed batchwise with a total of 500 ml of a mixture of dichloromethane, methanol and aqueous conc. ammonia (90:9:1). The majority of the solvent is eliminated at a vacuum of 200 mbar and a sump temperature of approx. 50° C. The product is distilled at 69-71° C. and 10 mbar.

reactant | Lithiumaluminiumhydrid | 1 M, 31.65 ml | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | (R)-2-pyrrolidin-1-yl-propionamide | 7.032 mmol, 1 g | N1(CCCC1)[C@@H](C(=O)N)C | C7H14N2O
reactant | methanol | 100 ml | CO | CH4O
reactant | dichloromethane | ClCCl | CH2Cl2
solvent | THF | 2 ml | C1CCOC1 | C4H8O
product | (R)-2-pyrrolidin-1-yl-propylamine | N1(CCCC1)[C@@H](CN)C | C7H16N2
